US09101616B2
Step-2: trans-2-(1H-indol-3-yl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanec arboxamide
To a solution of (R,E)-3-(1H-indol-3-yl)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acrylamide (600 mg, 1.3 mmol) in dichloromethane (10 mL) was added ethylzinc (4.1 mL, 4.1 mmol, 1.0 M) at room temperature. After being stirred at room temperature for 3 min, diiodomethane (1.8 g, 6.7 mmol) was added to the mixture. The mixture was refluxed at 55° C. with stirring for 18 hours. sat. ammonia hydrochloride aqueous solution was added to the mixture. The organic layer was extracted with ethyl acetate, washed with brine, dried over sodium sulfate. After the filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give the residue, which was applied to a silica gel chromatography column and eluted with a hexane/ethylacetate=1/1 (v/v) and preparative LC-MS to give 14 mg, (3% yield) of the title compound as a white solid (2:1 mixture of the diastereomers).

reactant | (R,E)-3-(1H-indol-3-yl)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acrylamide | 1.3 mmol, 600 mg | N1C=C(C2=CC=CC=C12)/C=C/C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H18F3N3O2
reactant | ethylzinc | 4.1 mmol, 1.0 M, 4.1 mL | C(C)[Zn]
reactant | diiodomethane | 6.7 mmol, 1.8 g | ICI | CH2I2
reactant | ammonia hydrochloride | Cl.N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | trans-2-(1H-indol-3-yl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanec arboxamide | 3% yield | N1C=C(C2=CC=CC=C12)[C@H]1[C@@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C21H20F3N3O2
